US06153770
3-Furylthio-pentan-2-one
11.2 g of potassium tert-butylate, dissolved in 100 ml of dry tetrahydrofuran, are initially introduced into the reaction vessel at room temperature. 11.4 g of furfurylmercaptan are added dropwise at 20° C. When the addition is complete, the mixture is subsequently stirred for a further 30 minutes. 16.5 g of 3-bromopentan-2-one are then added dropwise in the course of 30 minutes and the mixture is subsequently stirred for one hour. For working up, the mixture is poured onto 100 ml of water and extracted twice with diethyl ether, and the combined organic phases are washed with water, dried over sodium sulphate and concentrated. 19 g of crude product (purity 84.1%) are obtained. For further purification, the product is subjected to bulb tube distillation. 10 g of 3-furfurylthio-pentan-2-one, which has a purity of 97.5%, are obtained. The IR, NMR and mass spectra of the compound agree with the structure described for it.

reactant | potassium tert-butylate | 11.2 g | CC(C)(C)[O-].[K+]
reactant | furfurylmercaptan | 11.4 g | C(C1=CC=CO1)S | C5H6OS
reactant | 3-bromopentan-2-one | 16.5 g | BrC(C(C)=O)CC | C5H9BrO
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-Furylthio-pentan-2-one | 19 g | O1C=C(C=C1)SCC(CCC)=O | C9H12O2S
